US06482824B1
To a stirred suspension of 2-hydroxyethyltriphenylphosphonium bromide (30 g, 0.077 mol) in dried tetrahydrofuran (300 ml) cooled to −40° C. under an atmosphere of nitrogen was added a solution of n-butyllithium in hexane (2.5M, 58.5 ml) dropwise. The resulting orange suspension was then stirred at 50° C. with occasional ultrasonication for 3 h, cooled to −60° C. and a solution of 3-(4-ethoxyphenyl)-2-methylpropenaldehyde (7.4 g, 0.039 ml) in dried tetrahydrofuran (25 ml) added dropwise and allowed to warm to 0° C. After ½ h, water was added and the organic phase separated. The aqueous phase was extracted with diethyl ether and the combined organic phases washed four times with water and then brine. The organic phase was dried over magnesium sulphate, filtered and evaporated to an oil. The oil was dissolved in a minimum of diethyl ether and chromatographed on flash silica eluting with hexane then hexane-diethyl ether (3:2) to give 5-(4-ethoxyphenyl)-4-methylpent-2E,4E-dienal as a white solid.

reactant | 2-hydroxyethyltriphenylphosphonium bromide | 0.077 mol, 30 g | [Br-].OCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-(4-ethoxyphenyl)-2-methylpropenaldehyde | 0.039 ml, 7.4 g | C(C)OC1=CC=C(C=C1)C=C(C=O)C | C12H14O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 58.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-(4-ethoxyphenyl)-4-methylpent-2E,4E-dienal | C(C)OC1=CC=C(C=C1)/C=C(/C=C/C=O)\C | C14H16O2
